datasets/RMG-dataset.csv
rxn,Ea
[C:0]([C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:15])([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:10])[H:11])([H:8])[H:9]>>[C:0]([C:1]([C:2]1([H:12])[C:3]([H:13])([H:14])[C:4]([H:16])[C:5]([H:17])([H:18])[C:6]([H:19])([H:20])[C:7]1([H:21])[H:22])([H:10])[H:11])([H:8])([H:9])[H:15],78.006496
[C:0]([C:1]([S:2][H:9])([C:3](=[S:4])[H:10])[H:8])([H:5])([H:6])[H:7].[C:11]([S:12][H:15])([H:13])[H:14]>>[C:0]([C:1]([S:2][H:9])[C:3](=[S:4])[H:10])([H:5])([H:6])[H:7].[H:8][C:11]([S:12][H:15])([H:13])[H:14],6.6944
[C:0](=[C:1]([C:2]([S:3][H:9])([H:7])[H:8])[H:6])([H:4])[H:5].[C:10]([C:11]([C:12]([H:17])([H:18])[H:19])[H:16])([H:13])([H:14])[H:15]>>[C:0](=[C:1]([C:2]([S:3][H:9])[H:8])[H:6])([H:4])[H:5].[H:7][C:11]([C:10]([H:13])([H:14])[H:15])([C:12]([H:17])([H:18])[H:19])[H:16],7.5312
[C:0]([C:1](=[C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])[H:18])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17].[C:29]([c:30]1[c:31]([H:38])[c:32]([H:39])[c:33]([H:40])[c:34]([H:41])[c:35]1[H:42])([H:36])[H:37]>>[C:0]([C:1]([C:2]([c:3]1[c:4]([H:19])[c:5]([H:20])[c:6]([H:21])[c:7]([H:22])[c:8]1[H:23])([H:18])[C:29]([c:30]1[c:31]([H:38])[c:32]([H:39])[c:33]([H:40])[c:34]([H:41])[c:35]1[H:42])([H:36])[H:37])[c:9]1[c:10]([H:24])[c:11]([H:25])[c:12]([H:26])[c:13]([H:27])[c:14]1[H:28])([H:15])([H:16])[H:17],45.9822
[C:0]([C:1](=[N:2][H:7])[H:6])([H:3])([H:4])[H:5].[H:8]>>[C:0]([C:1](=[N:2])[H:6])([H:3])([H:4])[H:5].[H:7][H:8],10.0416
[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])([H:8])[H:9])([H:5])([H:6])[H:7].[O:13][H:14]>>[C:0]([C:1]([C:2]([C:3](=[O:4])[H:12])([H:10])[H:11])[H:9])([H:5])([H:6])[H:7].[H:8][O:13][H:14],-0.14644
[C:0]([O:1][H:4])([H:2])[H:3].[C:5](=[O:6])[H:7]>>[C-:5]#[O+:6].[C:0]([O:1][H:4])([H:2])([H:3])[H:7],0.0
[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])([c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])[H:12])([H:9])([H:10])[H:11].[C:21](=[S:22])[H:23]>>[C:0]([C:1]([C:2]([H:13])([H:14])[H:15])[c:3]1[c:4]([H:16])[c:5]([H:17])[c:6]([H:18])[c:7]([H:19])[c:8]1[H:20])([H:9])([H:10])[H:11].[H:12][C:21](=[S:22])[H:23],44.3504
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14](=[C:15]([C:16]([C:17](=[C:18]([H:24])[H:25])[H:23])[H:22])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([C:5]([H:11])([H:12])[H:13])([H:10])[C:16]([C:15](=[C:14]([H:19])[H:20])[H:21])([C:17](=[C:18]([H:24])[H:25])[H:23])[H:22])[H:6],61.0864
[C:0](=[C:1]([C:2](=[C:3]([C:4]([H:10])([H:11])[H:12])[H:9])[H:8])[H:7])([H:5])[H:6].[C:13](=[C:14][C:15]([H:18])([H:19])[H:20])([H:16])[H:17]>>[C:0](=[C:1]([C:2]([C:3]([C:4]([H:10])([H:11])[H:12])([H:9])[C:14](=[C:13]([H:16])[H:17])[C:15]([H:18])([H:19])[H:20])[H:8])[H:7])([H:5])[H:6],-0.16736
[C:0]([O:1][C:2]=[O:3])([H:4])([H:5])[H:6].[O:7][O:8][H:9]>>[C:0]([O:1][C:2](=[O:3])[O:7][O:8][H:9])([H:4])([H:5])[H:6],-4.184
[C:0](#[C:1][C:2]([C:3](=[C:4]([C:5]([C:6]([C:7]([H:17])([H:18])[H:19])=[C:8]([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])([H:15])[H:16])[H:14])[H:13])[H:12])[H:11]>>[C:0](#[C:1][C:2]1([H:12])[C:3]([H:13])=[C:4]([H:14])[C:5]([H:15])([H:16])[C:6]([C:7]([H:17])([H:18])[H:19])[C:8]1([C:9]([H:20])([H:21])[H:22])[C:10]([H:23])([H:24])[H:25])[H:11],121.713
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])([H:5])[H:6])[H:4].[C:10](#[C:11][C:12]([C:13]([H:16])([H:17])[H:18])[S:14][H:19])[H:15]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[H:6])[H:4].[H:5][C:12]([C:11]#[C:10][H:15])([C:13]([H:16])([H:17])[H:18])[S:14][H:19],44.3504
[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])=[C:4]([C:5]([H:11])([H:12])[H:13])[H:10])[H:6].[C:14]([C:15]([C:16]([H:21])([H:22])[H:23])[H:20])([H:17])([H:18])[H:19]>>[C:0](#[C:1][C:2]([C:3]([H:7])([H:8])[H:9])[C:4]([C:5]([H:11])([H:12])[H:13])([H:10])[C:15]([C:14]([H:17])([H:18])[H:19])([C:16]([H:21])([H:22])[H:23])[H:20])[H:6],8.368
[C:0](#[C:1][C:2]=[C:3]([H:5])[H:6])[H:4].[H:7]>>[C:0](#[C:1][C:2](=[C:3]([H:5])[H:6])[H:7])[H:4],50.71008
[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])=[C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[H:7].[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18]>>[C:0](#[C:1][C:2]([C:3]([H:8])([H:9])[H:10])([C:4]([C:5](=[C:6]([H:13])[H:14])[H:12])[H:11])[C:15]([C:16]([H:19])([H:20])[H:21])([H:17])[H:18])[H:7],17.6983
[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:15])([H:16])[H:17])([O:5][O:6])[H:14])[H:10])([H:7])([H:8])[H:9]>>[C:0]([C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([C:4]([H:16])[H:17])([O:5][O:6][H:15])[H:14])[H:10])([H:7])([H:8])[H:9],140.164
[C:0]([C:1]([N:2]([H:7])[H:8])([H:5])[H:6])([H:3])[H:4].[O:9][H:10]>>[C:0](=[C:1]([N:2]([H:7])[H:8])[H:6])([H:3])[H:4].[H:5][O:9][H:10],0.0
